US09403833B2
Step 4: 1-Azido-4-chloro-2-cyclopropylbenzene
A solution of 4-chloro-2-cyclopropylaniline (182 mg, 1.086 mmol) in acetic acid (15 ml) and water (15 ml) was stirred and cooled to 0° C. A solution of sodium nitrite (74.9 mg, 1.086 mmol) in water (1.4 ml) was added dropwise and the mixture was stirred under ice cooling for 10 mins. A solution of sodium azide (70.6 mg, 1.086 mmol) in water (1.5 ml) was added dropwise and was stirred under ice cooling for 1 hr and then at RT 30 mins. To the product mixture was added 2M NaOH (aq) until basic and this was extracted with EtOAc. The organic extract was washed with sat. NaHCO3(aq) and dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound as a dark yellow/brown oil. The crude product was used in the next step without further purification.

reactant | 4-chloro-2-cyclopropylaniline | 1.086 mmol, 182 mg | ClC1=CC(=C(N)C=C1)C1CC1 | C9H10ClN
reactant | sodium nitrite | 1.086 mmol, 74.9 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 1.086 mmol, 70.6 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaOH | 2M | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
solvent | water | 1.4 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 1-Azido-4-chloro-2-cyclopropylbenzene | N(=[N+]=[N-])C1=C(C=C(C=C1)Cl)C1CC1 | C9H8ClN3
